* C:\Users\idontseeit\Desktop\Justins_Files\electronics\Projects\sudoku\git\FPGA-based-Sudoku\LTspice\keyboard\keyboard.asc
S1 VDD N002 ROW1 0 SW
D1 N002 N008 D
R1 N008 0 {PD}
R2 KEY1 N008 {R}
C1 KEY1 0 {C}
D7 N002 N001 D
R3 N001 0 {PD}
R4 N001 ROW_ON {R}
C2 ROW_ON 0 {C}
S2 VDD N004 COL1 0 SW
D2 N004 N008 D
S3 VDD N006 DIG1 0 SW
D3 N006 N008 D
S4 VDD N003 ROW2 0 SW
D4 N003 N009 D
R5 N009 0 {PD}
R6 KEY2 N009 {R}
C3 KEY2 0 {C}
S5 VDD N005 COL2 0 SW
D5 N005 N009 D
S6 VDD N007 DIG2 0 SW
D6 N007 N009 D
R7 N010 0 {PD}
R8 N010 COL_ON {R}
C4 COL_ON 0 {C}
R9 N011 0 {PD}
R10 N011 DIG_ON {R}
C5 DIG_ON 0 {C}
D8 N003 N001 D
D9 N004 N010 D
D10 N005 N010 D
D11 N006 N011 D
D12 N007 N011 D
.model D D
.lib C:\Users\idontseeit\Documents\LTspiceXVII\lib\cmp\standard.dio
.model SW SW(Vt=0.1)
.param R=100k C=0.1u PD=2.2k TON=1.25m
.tran 1
V2 ROW1 0 PULSE(0 0.2 10m 0 0 {TON} 2.5m 8)
V1 VDD 0 3.3
V3 COL1 0 PULSE(0 0.2 100m 0 0 50m 0 0)
V4 DIG1 0 PULSE(0 0 0 0 0 0 0 1)
V5 ROW2 0 PULSE(0 0 0 0 0 0 0 1)
V6 COL2 0 PULSE(0 0 0 0 0 0 0 1)
V7 DIG2 0 PULSE(0 0 0 0 0 0 0 1)
.backanno
.end
