* C:\Users\idontseeit\Desktop\Justins_Files\electronics\Projects\sudoku\git\FPGA-based-Sudoku\LTspice\keyboard\keyboard.asc
R1 Vcc KEY1 {R}
D13 KEY1 ROW_1 D
D14 KEY1 COL_1 D
D15 KEY1 DIG_1 D
S7 ROW_1 0 ROW1 0 SW
S8 COL_1 0 COL1 0 SW
S9 DIG_1 0 DIG1 0 SW
R2 Vcc KEY2 {R}
D16 KEY2 ROW_2 D
D17 KEY2 COL_2 D
D18 KEY2 DIG_2 D
S10 ROW_2 0 ROW2 0 SW
S11 COL_2 0 COL2 0 SW
S12 DIG_2 0 DIG2 0 SW
R3 Vcc ROW_ON {R}
D19 ROW_ON ROW_1 D
D20 ROW_ON ROW_2 D
R4 Vcc DIG_ON {R}
D21 DIG_ON DIG_1 D
D22 DIG_ON DIG_2 D
R5 Vcc COL_ON {R}
D23 COL_ON COL_1 D
D24 COL_ON COL_2 D
.model D D
.lib C:\Users\idontseeit\Documents\LTspiceXVII\lib\cmp\standard.dio
.model SW SW(Vt=0.1)
.param R=12k TON=1.25m
.tran 1
V2 ROW1 0 PULSE(0 0 0 0 0 0 0 1)
V1 VCC 0 3.3
V3 COL1 0 PULSE(0 0.2 100m 0 0 50m 0 1)
V4 DIG1 0 PULSE(0 0 0 0 0 0 0 1)
V5 ROW2 0 PULSE(0 0 0 0 0 0 0 1)
V6 COL2 0 PULSE(0 0 0 0 0 0 0 1)
V7 DIG2 0 PULSE(0 0 0 0 0 0 0 1)
.backanno
.end
